US05883102
(b) 1-(1-H-Pyrrol-2-ylcarbonyl)-4-piperidone ethylene ketal
A solution of 1-(1H-pyrrole-2-carbonyl)imidazole (0.54 g, 3.4 mnmol) and 4-piperidone ethylene ketal (0.43 ml, 3.4 mmol) in THF (10 ml) was heated at reflux for 1 h. The mixture was cooled and evaporated, diluted with ethyl acetate, washed with dilute HCl, dried over sodium sulphate and evaporated to afford a beige solid (0.56 g), MS (+CI) 237 ([M+H]+), 1H NMR (CDCl3) 9.47 (1H, br. s), 6.92 (1H, m), 6.53 (1H, m), 6.25 (1H, m), 4.00 (4H, s), 3.91 (4H, t, J 5.4 Hz), 1.78 (4H, t, J 5.8 Hz).

reactant | 1-(1H-pyrrole-2-carbonyl)imidazole | 0.54 g | N1C(=CC=C1)C(=O)N1C=NC=C1 | C8H7N3O
reactant | 4-piperidone ethylene ketal | 3.4 mmol, 0.43 ml | C1COC2(CCNCC2)O1 | C7H13NO2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(1-H-Pyrrol-2-ylcarbonyl)-4-piperidone ethylene ketal | 0.56 g | C1COC2(CCN(CC2)C(=O)C=2NC=CC2)O1 | C12H16N2O3
